US04325953
1-Methyl-4-phenoxy-4-phenylpiperidine
A solution of 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine (2.82 g, 10 mM), in THF (75 ml) was added over 2 hours to a refluxing solution of amyl nitrite (2.7 ml, 20 mM) in THF (30 ml). After 5 hours at reflux amyl nitrite (1.5 ml) was added and the mixture maintained at reflux for 24 hours. The solvent was removed under reduced pressure and the residue partitioned between 2 N hydrochloric acid (50 ml) and ether (50 ml). The aqueous phase was basified (pH9) and extracted with ether (2×100 ml). The organic phase was dried and the solvents removed under reduced pressure. Sublimation of the residue at 1.0 mbar pressure (bath temp. 100°) gave the title compound (700 mg), m.p. 103°-4°.

reactant | 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine | 10 mM, 2.82 g | NC1=CC=C(OC2(CCN(CC2)C)C2=CC=CC=C2)C=C1 | C18H22N2O
reactant | amyl nitrite | 20 mM, 2.7 ml | N(=O)OCCCCC | C5H11NO2
reactant | amyl nitrite | 1.5 ml | N(=O)OCCCCC | C5H11NO2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-Methyl-4-phenoxy-4-phenylpiperidine | 700 mg | CN1CCC(CC1)(C1=CC=CC=C1)OC1=CC=CC=C1 | C18H21NO
